US08557983B2
(R)-1-(1,3-difluoropropan-2-yl)piperidin-3-amine hydrogen chloride
A solution of (R)-tert-butyl piperidin-3-ylcarbamate (0.500 g), 1,3-difluoropropan-2-one (0.258 g) and sodium triacetoxyhydroborate (0.794 g) were stirred together in dichloromethane (5 mL) overnight. The reaction was quenched with saturated aqueous NaHCO3 (10 mL) and extracted with dichloromethane (30 mL). The organic layer was washed with brine (20 mL), dried over magnesium sulfate, filtered, and concentrated. The crude material was treated with HCl (4.0M dioxane, 2 mL) in methanol (2 mL). After stirring for 2 hours, the reaction was concentrated to provide the title compound.

reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 0.500 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 1,3-difluoropropan-2-one | 0.258 g | FCC(CF)=O | C3H4F2O
reactant | sodium | [Na] | Na
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-1-(1,3-difluoropropan-2-yl)piperidin-3-amine hydrogen chloride | Cl.FCC(CF)N1C[C@@H](CCC1)N | InChI=1S/C8H16F2N2.ClH/c9-4-8(5-10)12-3-1-2-7(11)6-12;/h7-8H,1-6,11H2;1H/t7-;/m1./s1
